US07884207B2
Ethyl bromoacetate (19.52 mL, 176 mol) was added in a single portion to a chilled (0° C.) solution of dibenzylamine (33.84 mL, 176 mmol) and triethylamine (27 mL, 193.6 mmol) in THF. The reaction mixture was stirred overnight at ambient temperature. Additional triethylamine (30 mL) and THF (100 mL) were added and the reaction mixture was heated at 50° C. for 1.5 hours. Additional ethyl bromoacetate (13 mL) was added and the reaction mixture was heated for 1 hour and then stirred at ambient temperature overnight. About half of the THF was removed under reduced pressure. The mixture was diluted with water (300 mL) and then extracted with ethyl acetate (2×400 mL). The combined extracts were washed sequentially with water and with brine, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was purified by flash chromatography (700 g of silica gel, eluting with 20% ethyl acetate in hexanes) to provide 37.12 g of ethyl dibenzylaminoacetate as a colorless oil.

reactant | Ethyl bromoacetate | 176 mol, 19.52 mL | BrCC(=O)OCC | C4H7BrO2
reactant | dibenzylamine | 176 mmol, 33.84 mL | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | triethylamine | 193.6 mmol, 27 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl bromoacetate | 13 mL | BrCC(=O)OCC | C4H7BrO2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl dibenzylaminoacetate | 37.12 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC(=O)OCC | C18H21NO2
